US05965550
A solution of 20-hydroxymethyl-4-nitropregn-4-en-3-one (2.01 g, 5.35 mM) in absolute ethanol (28 mL) is treated sequentially with Lindlar's catalyst (5% Pd on CaCO3 with 5.2% Pb, 0.81 g) and with quinoline (37 μl) and kept under hydrogen at between 40-55 p.s.i. for 24 hours. The mixture is then filtered through celite, and the filtrate is concentrated to a yellow solid which is purified by short path chromatography to give 4-amino-20-hydroxymethylpregn-4-en-3-one, m.p. 180-185° C. (aqueous isopropanol).

reactant | 20-hydroxymethyl-4-nitropregn-4-en-3-one | 5.35 mM, 2.01 g | OCC(C)[C@H]1CC[C@H]2[C@@H]3CCC4=C(C(CC[C@]4(C)[C@H]3CC[C@]12C)=O)[N+](=O)[O-] | C22H33NO4
reactant | quinoline | 37 μl | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethanol | 28 mL | C(C)O | C2H6O
catalyst | Lindlar's catalyst | 0.81 g | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 4-amino-20-hydroxymethylpregn-4-en-3-one | NC1=C2CC[C@H]3[C@@H]4CC[C@H](C(C)CO)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C | C22H35NO2
